US07776857B2
Step 2: 2-(4-Chloro-3-(2-(methylthio)ethoxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
4,4,5,5-Tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane (79 mg, 313 μmol), (2-(5-bromo-2-chlorophenoxy)ethyl)(methyl)sulfane (80 mg, 284 μmol), potassium acetate (84 mg, 852 μmol) and Pd(DPPF) were combined in dioxane and stirred for 4 hours at 100° C. The mixture was then filtered, concentrated, and purified on silica using 0 to 40% ethyl acetate in hexane. MS: M+Na+=351

reactant | 4,4,5,5-Tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 313 μmol, 79 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | (2-(5-bromo-2-chlorophenoxy)ethyl)(methyl)sulfane | 284 μmol, 80 mg | BrC=1C=CC(=C(OCCSC)C1)Cl | C9H10BrClOS
reactant | potassium acetate | 852 μmol, 84 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-(4-Chloro-3-(2-(methylthio)ethoxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | ClC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)OCCSC | C15H22BClO3S
